US05455252
2-bromo-4-isopropylaniline and 3-nitrobenzene boronic acid were combined to form 2-(3-nitrophenyl)-4-isopropylaniline,

reactant | 2-bromo-4-isopropylaniline | BrC1=C(N)C=CC(=C1)C(C)C | C9H12BrN
reactant | 3-nitrobenzene boronic acid | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
product | 2-(3-nitrophenyl)-4-isopropylaniline | [N+](=O)([O-])C=1C=C(C=CC1)C1=C(N)C=CC(=C1)C(C)C | C15H16N2O2
